US07732446B1
As described in Example 1, 60 mg of [1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid was coupled with 2-methoxy-ethylamine to give 40 mg of {6,7-dimethoxy-4-[(2-methoxy-ethylcarbamoyl)-methyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester. H1-NMR (CDCl3): δ, d 8.21 (s, 1H), 7.40 (s, 1H), 7.25 (s, 1H), 6.17 (br s, 1H), 5.74 (br s, 1H), 4.89 (d, J=4.7 Hz, 2H), 4.03 (s, 6H), 3.89 (s, 2H), 3.36 (m, 4H), 3.17 (s, 3H), 1.51 (s, 9H); MS: APCI (M+H) calc'd for C22H31N3O6+H 434.5; found 434.0.

reactant | [1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid | 60 mg | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)O | C19H24N2O6
reactant | 2-methoxy-ethylamine | COCCN | C3H9NO
product | {6,7-dimethoxy-4-[(2-methoxy-ethylcarbamoyl)-methyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester | 40 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(NCCOC)=O)=O | C22H31N3O6
